US03983130
b. 5-amino-2-(1-methyl-2-pyrrolyl)benzoxazole
1.5 g of 2-(1-methyl-2-pyrrolyl)-5-nitrobenzoxazole (0.006 mole) and 0.15 g of 10% Pd/C are suspended in 100 ml of 95% EtOH and hydrogenated at 50 psi over a period of 2.5 hr. The catalyst is removed and the EtOH evaporated under vacuum yielding a brown solid. Crystallization from methanol yields 1.15 g of tan crystals, mp 183°-185° (89%).

reactant | 2-(1-methyl-2-pyrrolyl)-5-nitrobenzoxazole | 0.006 mole, 1.5 g | CN1C(=CC=C1)C=1OC2=C(N1)C=C(C=C2)[N+](=O)[O-] | C12H9N3O3
solvent | EtOH | 100 ml | CCO | C2H6O
catalyst | Pd/C | 0.15 g | [Pd] | Pd
product | 5-amino-2-(1-methyl-2-pyrrolyl)benzoxazole | 1.15 g | NC=1C=CC2=C(N=C(O2)C=2N(C=CC2)C)C1 | C12H11N3O
